US07456164B2
4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile
4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile (2 g, 9.86 mmol), 1-(3-chloro-propyl)-pyrrolidine (2.33 g, 15.78 mmol), DMF (40 ml) and K2CO3 (5.45 g, 39.44 mmol) were reacted together according to general procedure E. The crude reaction product was diluted with 2M HCl solution (200 ml) and washed with ethyl acetate (3×50 ml). The aqueous phase was basified to pH 14 with 2M NaOH (200 ml) and extracted with ethyl acetate (4×50 ml). The combined organic extracts were dried over MgSO4, filtered, washed with ethyl acetate and concentrated in vacuo to give a white solid. The solid was slurried in TBME (15 ml) and heptane (15 ml), filtered, washed with heptane (8 ml) and dried on the filter for 2 hours to give the title compound as a white solid (1.6 g, 53%). 1H NMR (400 MHz, DMSO-d6) δ7.43 (d, 2H), 6.99 (d, 2H), 4.08-3.94 (m, 4H), 3.64 (dt, 2H), 2.57-2.47 (m, 2H), 2.46-2.36 (m, 4H), 2.12-1.94 (m, 4H), 1.87 (p, 2H), 1.73-1.62 (m, 4H).

reactant | 4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile | 9.86 mmol, 2 g | OC1=CC=C(C=C1)C1(CCOCC1)C#N | C12H13NO2
reactant | 1-(3-chloro-propyl)-pyrrolidine | 15.78 mmol, 2.33 g | ClCCCN1CCCC1 | C7H14ClN
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | K2CO3 | 39.44 mmol, 5.45 g | C(=O)([O-])[O-].[K+].[K+]
solvent | HCl | 2M, 200 ml | Cl | ClH
solvent | TBME | 15 ml | CC(C)(C)OC | C5H12O
product | 4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile | 1.6 g, 53% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
